US08791267B2
Synthesis of 1-[5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-piperazine (P-423).
To carbonic acid 3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl ester methyl ester (0.2 g, 0.62 mmol), 1-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-yl]-piperazine (0.2 g, 0.68 mmol), bis-diphenylphosphinopentane (0.08 g, 0.18 mmol), potassium carbonate (0.26 g, 1.85 mmol) and allyl palladium (II) chloride dimer (0.034 g, 0.09 mmol) was added dimethyl formamide (6 mL). The reaction was degassed with an argon stream for 10 min. The reaction was stirred at 85° C. for 18 h. The reaction was cooled to room temperature, poured onto crushed ice-water (150 mL), filtered, washed with water, dried over sodium sulfate, filtered, and the solvent removed under vacuum. The residue was purified by silica gel column chromatography using 10% methanol in dichloromethane to afford P-423 (0.05 g, 18% yield) as light brown gummy solid. 1H NMR (400 MHz, DMSO-d6): 3.20 (br s, 3H) 3.55-3.99 (m, 10H), 6.95 (d, J=8.59 Hz, 1H), 7.11 (br s, 1H), 7.23-7.39 (m, 3H), 7.39-7.55 (m, 2H), 7.69 (br s, 1H), 8.02 (s, 1H), 9.33 (br s, 2H) ppm. Calc. 411.9; APCI+ (M+1): 412.1, 97%.

reactant | carbonic acid 3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl ester methyl ester | 0.62 mmol, 0.2 g | COC(OCC=1C(=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)F)=O | C16H14ClFO4
reactant | 1-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-yl]-piperazine | 0.68 mmol, 0.2 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1CCNCC1)C | C15H24BN3O2
reactant | bis-diphenylphosphinopentane | 0.18 mmol, 0.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C(CC)(CC)P(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30P2
reactant | potassium carbonate | 1.85 mmol, 0.26 g | C([O-])([O-])=O.[K+].[K+]
catalyst | allyl palladium (II) chloride dimer | 0.09 mmol, 0.034 g | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
solvent | dimethyl formamide | 6 mL | CN(C=O)C | C3H7NO
product | 1-[5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-piperazine | 18% yield | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)N1CCNCC1)F | C23H23ClFN3O
